US08106212B2
24.80 g (248 mmol) of tetronic acid are added slowly to 41.40 g (225.3 mmol) of N-[(6-chloro-5-fluoropyridin-3-yl)methyl]methanamine (III-1) in 64 ml of acetic acid, and the mixture is stirred at room temperature for about 16 hours. The reaction mixture is concentrated under reduced pressure, the residue is taken up in ethyl acetate and the mixture is washed successively twice with 1 N aqueous hydrochloric acid, twice with 1 N aqueous sodium hydroxide solution and saturated sodium chloride solution and dried over sodium sulphate. Concentration of the organic phase under reduced pressure and purification of the residue by recrystallization from ethyl acetate gives 30.0 g (52% of theory) of 4-[[(6-chloro-5-fluoropyridin-3-yl)methyl](methyl)amino]furan-2(5H)-one.

reactant | tetronic acid | 248 mmol, 24.80 g | C1C(=O)COC1=O | C4H4O3
reactant | N-[(6-chloro-5-fluoropyridin-3-yl)methyl]methanamine | 225.3 mmol, 41.40 g | ClC1=C(C=C(C=N1)CNC)F | C7H8ClFN2
solvent | acetic acid | 64 ml | C(C)(=O)O | C2H4O2
product | 4-[[(6-chloro-5-fluoropyridin-3-yl)methyl](methyl)amino]furan-2(5H)-one | 30.0 g, 52% | ClC1=C(C=C(C=N1)CN(C1=CC(OC1)=O)C)F | C11H10ClFN2O2
